US05166204
150 mg of N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide was dissolved in 5 ml of methylene chloride. To this solution was added 220 mg of 2,3-dichloro-5,6-dicyano-p-benzoquinone (abbreviated to hereinafter as DDQ). The mixture was stirred at room temperature for 10 minutes. Then, thereto were added 20 ml of methylene chloride and 10 ml of an aqueous 10% potassium carbonate solution. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from n-propanol to obtain 120 mg (yield: 81%) of N-benzylcarbazole-3,4-dicarboximide as orange needles.

reactant | N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide | 150 mg | C(C1=CC=CC=C1)N1C(=O)C2CCC=3NC4=CC=CC=C4C3C2C1=O | C21H18N2O2
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 220 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-benzylcarbazole-3,4-dicarboximide | 120 mg, yield: 81% | C(C1=CC=CC=C1)N1C(=O)C=2C=CC=3NC4=CC=CC=C4C3C2C1=O | C21H14N2O2
